US08067408B2
N-[(3-Bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (0.564 g, 1.25 mmol), [(3-bromo-4-chlorophenyl)methyl]amine (0.275 g, 1.25 mmol, HBTU (0.474 g, 1.25 mmol), and TEA (0.348 mL, 2.5 mmol) were combined in CH2Cl2 (30 mL). The mixture was stirred overnight at room temperature. The reaction mixture was concentrated to dryness. Residue taken up in EtOAc, washed with 1 N NaOH, brine, dried over anhydrous Na2SO4, filtered, and concentrated to give the crude product. It was purified further using CombiFlash on a 40 g column eluted with 0-10% MeOH/CH2Cl2 to give the title compound as a white solid. LC-MS m/z 652.9 (M+H)+, 1.91 min (ret time); mp 115-117° C.; analytical HPLC shows 98.4% purity, (ret time 13.689 min).

reactant | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 1.25 mmol, 0.564 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | [(3-bromo-4-chlorophenyl)methyl]amine | BrC=1C=C(C=CC1Cl)CN | C7H7BrClN
reactant | HBTU | 1.25 mmol, 0.474 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-Bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | BrC=1C=C(C=CC1Cl)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrClN6O3
